US05648473
To 4 g of N-acetylcytosine were added 56 ml of hexamethyldisilazane and 698 mg of ammonium sulfate. This solution was heated to 115° C.-120° C. for 4 hours with stirring and the excess hexamethyldisilazane was subsequently removed. The mixture was cooled to 50° C. and constituted in 50 ml of 1,2-dichloroethane. The 1,2-dichloroethane was removed and the resulting solid residue was reconstituted in 50 ml of 1,2-dichloroethane. The 1,2-dichloroethane was again removed and an oily residue formed. The oily residue was constituted in 2.5 ml 1,2-dichloroethane to form a homogenous bis-trimethylsilyl-N-acetylcytosine solution.

reactant | N-acetylcytosine | 4 g | C(C)(=O)NC1=NC(NC=C1)=O | C6H7N3O2
reactant | hexamethyldisilazane | 56 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonium sulfate | 698 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | 1,2-dichloroethane | 2.5 ml | ClCCCl | C2H4Cl2
product | bis-trimethylsilyl-N-acetylcytosine | C[Si](C)(C)N(C1=NC(N(C=C1)[Si](C)(C)C)=O)C(C)=O | C12H23N3O2Si2
